US05041462
Preparation of 2-(acetoxyacetylamino)-6-(methylamino)benzamide:
To a solution of 2-amino-6-(methylamino)benzamide (3.6 g) in methylene chloride (100 ml) is added pyridine (4.8 ml), and thereto is added dropwise acetoxyacetyl chloride (3.2 ml) which is cooled in an ice bath. The mixture is stirred at room temperature for 1 hour, and thereafter, the solvent is distilled off under reduced pressure. The resulting crude crystals are washed with water and ether and then are recrystallized from ethanol to give the title compound (4.2 g) having the following physical properties.

reactant | 2-amino-6-(methylamino)benzamide | 3.6 g | NC1=C(C(=O)N)C(=CC=C1)NC | C8H11N3O
reactant | pyridine | 4.8 ml | N1=CC=CC=C1 | C5H5N
reactant | acetoxyacetyl chloride | 3.2 ml | C(C)(=O)OCC(=O)Cl | C4H5ClO3
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 2-(acetoxyacetylamino)-6-(methylamino)benzamide | 4.2 g | C(C)(=O)OCC(=O)NC1=C(C(=O)N)C(=CC=C1)NC | C12H15N3O4
